US08580832B2
4-[4-(2-Amino-4-oxo-4H-thiazol-5-ylidenemethyl)-2-methoxy-phenoxy]-3-trifluoromethyl-benzonitrile was prepared using 2-amino-thiazol-4-one and 4-(4-Formyl-2-methoxy-phenoxy)-3-trifluoromethyl-benzonitrile according to General Procedure B. 1H NMR (400 Hz, DMSO-d6) δ 8.96 (bs, NH), 8.74 (bs, NH), 8.32 (d, 1H), 7.99 (dd, 1H), 7.65 (d, 1H), 7.47 (d, 1H), 7.36 (d, 1H), 7.24 (d, 1H), 6.89 (d, 1H), 3.88 (s, 3H); LC/MS (m/z) [M+1]+420.0 (C19H13F3N3O3S, 420.38).

reactant | 2-amino-thiazol-4-one | NC=1SCC(N1)=O | C3H4N2OS
reactant | 4-(4-Formyl-2-methoxy-phenoxy)-3-trifluoromethyl-benzonitrile | C(=O)C1=CC(=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=C1)OC | C16H10F3NO3
product | 4-[4-(2-Amino-4-oxo-4H-thiazol-5-ylidenemethyl)-2-methoxy-phenoxy]-3-trifluoromethyl-benzonitrile | NC=1SC(C(N1)=O)=CC1=CC(=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=C1)OC | C19H12F3N3O3S
